US07855285B2
Treatment of 3-benzyl-1-{2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]purin-6-yl}-2-propylimidazolium iodide (0.83 g, crude) with NH3/MeOH (26%, 50 mL) at 60° C. followed by ion exchange chromatography (Dowex 1×2 [OH−], H2O/MeOH) by method 3 gave cladribine (0.31 g, quantitative). Recrystallization from EtOH gave a white solid (0.153 g, 54%), and the residue from the mother liquor was recrystallized from H2O to give a second crop (0.015 g, 59% total): mp>300° C.; UV (MeOH) max 212, 265 nm (∈ 24 000, 14 600), min 229 nm (∈ 2000); 1H NMR (500 MHz, DMSO-d6) δ 8.36 (s, 1H), 7.83 (br, 2H), 6.26 (t, J=6.7 Hz, 1H), 5.32 (d, J=4.3 Hz, 1H), 4.97 (t, J=5.5 Hz, 1H), 4.38 (s, 1H), 3.85 (s, 1H), 3.57-3.61 (m, 1H), 3.48-3.53 (m, 1H), 2.62-2.67 (m, 1H), 2.25-2.29 (m, 1H); 13C NMR (125 MHz, DMSO-d6) δ 157.5, 153.6, 150.8, 140.5, 118.8, 88.6, 84.2, 71.4, 62.3, 38.0; HRMS m/z 285.0615 (M+ [C10H12ClN5O3]=285.0629). Anal. Calcd for C10H12ClN5O3: C, 42.04; H, 4.23; N, 24.51. Found: C, 41.87; H, 4.50; N, 24.39.

reactant | 3-benzyl-1-{2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]purin-6-yl}-2-propylimidazolium iodide | 0.83 g | [I-].C(C1=CC=CC=C1)N1C(=[N+](C=C1)C1=C2N=CN(C2=NC(=N1)Cl)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C)CCC
reactant | NH3 MeOH | 50 mL | N.CO
solvent | H2O MeOH | O.CO
product | 6-amino-2-chloro-9-(2-deoxy-β-D-erythro-pentofuranosyl)purine | 0.31 g | NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1C[C@H](O)[C@H](O1)CO | C10H12ClN5O3
